US08791161B2
N-(5-chloro-2-{[2-(1H-pyrazol-4-yl)ethyl]thio}phenyl)-1-benzofuran-2-sulfonamide
Following General Procedure B, the title compound (123 mg) was prepared from 2-((2-(1H-pyrazol-4-yl)ethyl)thio)-5-chloroaniline (157 mg, 0.618 mmol) and benzofuran-2-sulfonyl chloride (133 mg, 0.618 mmol) in pyridine (3 ml).

reactant | 2-((2-(1H-pyrazol-4-yl)ethyl)thio)-5-chloroaniline | 0.618 mmol, 157 mg | N1N=CC(=C1)CCSC1=C(N)C=C(C=C1)Cl | C11H12ClN3S
reactant | benzofuran-2-sulfonyl chloride | 0.618 mmol, 133 mg | O1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO3S
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | N-(5-chloro-2-{[2-(1H-pyrazol-4-yl)ethyl]thio}phenyl)-1-benzofuran-2-sulfonamide | 123 mg | ClC=1C=CC(=C(C1)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2)SCCC=2C=NNC2 | C19H16ClN3O3S2
